US05814648
To a mixture of 4,5-dihydro-2-(3-hydroxyphenyl)-4(R)-phenyloxazole (5.0 g, 20.9 mmol), 1-(tert-butyldimethylsilyloxy)propan-2(S)-ol (4.76 g, 25 mmol) and triphenylphosphine (6.58 g, 25 mmol) in dry tetrahydrofuran (30 ml) was added dropwise a solution of diethyl azodicarboxylate (3.9 ml, 25 mmol) in dry tetra-hydrofuran (5 ml). The reaction mixture was stirred ambient temperature for 1 h and then ay 50° C. for 5 hours. Volatiles were removed by evaporation and the resulting residue purified by column chromatography on silica gel eluting with ethyl acetate-hexane (=1:6) to afford 1-(tert-butyldimethylsilyloxy)-2(R)-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]propane (8.7 g, quant.) as a colorless oil.

reactant | 4,5-dihydro-2-(3-hydroxyphenyl)-4(R)-phenyloxazole | 20.9 mmol, 5.0 g | OC=1C=C(C=CC1)C=1OC[C@H](N1)C1=CC=CC=C1 | C15H13NO2
reactant | 1-(tert-butyldimethylsilyloxy)propan-2(S)-ol | 25 mmol, 4.76 g | [Si](C)(C)(C(C)(C)C)OC[C@H](C)O | C9H22O2Si
reactant | triphenylphosphine | 25 mmol, 6.58 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 25 mmol, 3.9 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetra-hydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 1-(tert-butyldimethylsilyloxy)-2(R)-[3-(4,5-dihydro-4(R)-phenyloxazol-2-yl)phenoxy]propane | 8.7 g | [Si](C)(C)(C(C)(C)C)OC[C@@H](C)OC1=CC(=CC=C1)C=1OC[C@H](N1)C1=CC=CC=C1 | C24H33NO3Si
